US05112835
An amount of 294 mg (1 mmol) of 1-[(2-hydroxyethoxy)methyl]-6-phenylthiouracil was dissolved in 5 ml pyridine. To this solution 0.17 ml (1.5 mmol) of benzoyl chloride was added and the reaction mixture was allowed to react at room temperature for 2 hours. After the reaction, it was distributed between ethyl acetate and aqueous layers, and the said ethyl acetate layer then concentrated to dryness. The residue was crystallized from toluene to obtain 340 mg of 1-[(2-benzoyloxyethoxy)methyl]-6-phenylthiouracil (Yield: 85%). This was then suspended in 5 ml of toluene, and to this solution 449 mg (1.11 mmol) of 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4 diphosphetane-2,4-disulfide was added and the reaction mixture was allowed to react at 100° C. for 3 hours. After the reaction, the reaction mixture was distributed between ethyl acetate and aqueous layers, the ethyl actate layer concentrated to dryness. The residue was dissolved in 2 ml of tetrahydrofuran and 5 ml of ethanol. To this solution 2.25 ml of 1N sodium hydroxide aqueous solution was added and the reaction mixture was allowed to react at room temperature for 1 hour. It was then neutralized with hydrochloric acid, and concentrated to dryness. The residue was distributed between ethyl acetate and aqueous layers, and the said ethyl acetate layer was then concentrated to dryness. The resultant was dissolved in a small amount of chloroform, adsorbed on a silica gel column and eluted with 2.5% methanol/chloroform. The eluate was concentrated and dried to obtain a residue, which was crystallized from toluene to obtain 141 mg of the target compound (Yield: 53%).

reactant | 1-[(2-hydroxyethoxy)methyl]-6-phenylthiouracil | 1 mmol, 294 mg | OCCOCN1C(=S)NC(=O)C=C1C1=CC=CC=C1 | C13H14N2O3S
reactant | benzoyl chloride | 1.5 mmol, 0.17 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 1-[(2-benzoyloxyethoxy)methyl]-6-phenylthiouracil | 340 mg, Yield: 85% | C(C1=CC=CC=C1)(=O)OCCOCN1C(=S)NC(=O)C=C1C1=CC=CC=C1 | C20H18N2O4S
